US07071218B2
To a solution of 5-isobutyl-3,3-dimethyl-2,3-dihydro-benzofuran (1.59 g, 7.78 mmol) in dichloromethane (40 mL) was added pyridinium tribromide (2.49 g, 7.78 mmol) and the reaction mixture stirred at room temperature overnight. The solution was washed with water and brine, dried (Mg2SO4), filtered and evaporated. The residue was purified on silica gel (0% to 2% ethyl acetate in hexane) to give 1.51 g of 7-bromo-5-isobutyl-3,3-dimethyl-2,3-dihydro-benzofuran (68%). 1H NMR (300 MHz; CDCl3): δ 0.90 (d, J=6.3 Hz, 6 H), 1.33 (s, 6 H), 1.77 (m, 1 H), 2.39 (d, J=7.5 Hz, 2 H), 4.30 (s, 2 H), 6.80 (d, J=1.5 Hz, 1 H), 7.05 (d, J=1.5 Hz, 1 H).

reactant | 5-isobutyl-3,3-dimethyl-2,3-dihydro-benzofuran | 7.78 mmol, 1.59 g | C(C(C)C)C=1C=CC2=C(C(CO2)(C)C)C1 | C14H20O
reactant | pyridinium tribromide | 7.78 mmol, 2.49 g | [Br-].[Br-].[Br-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 7-bromo-5-isobutyl-3,3-dimethyl-2,3-dihydro-benzofuran | 1.51 g, 68% | BrC1=CC(=CC=2C(COC21)(C)C)CC(C)C | C14H19BrO
